US08258119B2
Methyl 4-aminothiophene-3-carboxylate:
Methyl 4-aminothiophene-3-carboxylate hydrochloride (290 mg) was dissolved in water (20 mL) and basified with ammonia solution. The solution was extracted with chloroform and the combined chloroform layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent to give the product as pale yellow color oil (150 mg, 65%). 1H NMR (400 MHz, CDCl3): δ 7.92 (1H, d, J=3.6 Hz), 6.08 (1H, d, J=3.6 Hz), 4.79 (2H, br s), 3.85 (3H, s).

reactant | Methyl 4-aminothiophene-3-carboxylate hydrochloride | 290 mg | Cl.NC=1C(=CSC1)C(=O)OC
reactant | ammonia | N | H3N
solvent | water | 20 mL | O | H2O
product | Methyl 4-aminothiophene-3-carboxylate | 150 mg, 65% | NC=1C(=CSC1)C(=O)OC | C6H7NO2S
